US05374720
The same procedure as in Example 1-1 was carried out by using p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (174 mg, 0.29 mmol) and (2S,4S)-2-[2-carbamoyl-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]-4-mercapto-N-(p-nitrobenzyloxycarbonyl)pyrrolidine diastereomer I (160 mg, 0.28 mmol, compound of Reference Example 13) to obtain p-nitrobenzyl (1R,5S,6S)-2-[(2S,4S)-2-[2-carbamoyl-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-yl)-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate diastereomer I (223 mg, yield: 82.9%).

reactant | p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 0.29 mmol, 174 mg | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O10P
reactant | (2S,4S)-2-[2-carbamoyl-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]-4-mercapto-N-(p-nitrobenzyloxycarbonyl)pyrrolidine | C(N)(=O)C1N(CC(C1)[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H27N5O9S
product | p-nitrobenzyl (1R,5S,6S)-2-[(2S,4S)-2-[2-carbamoyl-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-yl)-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | yield: 82.9% | C(N)(=O)C1N(CC(C1)[C@H]1N(C[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-] | C42H43N7O15S
